US09290451B2
a) tert-Butyl 3-(methylcarbamoyl)pentan-3-ylcarbamate
A mixture of 2-(tert-butoxycarbonylamino)-2-ethylbutanoic acid (Example 23 a, 400 mg 2 mmol), HBTU (CAN 94790-37-1, 1.3 g, 3 mmol), Et3N (0.7 g, 7 mmol) in DMF (10 mL) was stirred for 30 min, then methanamine hydrochloride (CAN 593-51-1, 260 mg, 6 mmol) was added into the mixture and the solution was stirred overnight. After that, the solution was diluted with water (20 mL) and extracted with ethyl acetate (3×30 mL), the combined organic layer was washed with water (3×50 mL) and brine (60 mL), then evaporated to dryness. The crude product (0.18 g, 45%) obtained as a light yellow solid was used for the next step directly.

reactant | 2-(tert-butoxycarbonylamino)-2-ethylbutanoic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)(CC)CC | C11H21NO4
reactant | HBTU | 3 mmol, 1.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 7 mmol, 0.7 g | CCN(CC)CC | C6H15N
reactant | methanamine hydrochloride | 6 mmol, 260 mg | Cl.CN
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | tert-Butyl 3-(methylcarbamoyl)pentan-3-ylcarbamate | 0.18 g, 45% | CNC(=O)C(CC)(CC)NC(OC(C)(C)C)=O | C12H24N2O3
